US04414223
2-(2-Chloro-3-methylanilinomethyl)-2-imidazoline was prepared by the method described in Example 1, from 2-chloromethyl-2-imidazoline hydrochloride and 2-chloro-3-methyl aniline (m.p. 248°-249° C.).

reactant | 2-chloromethyl-2-imidazoline hydrochloride | Cl.ClCC=1NCCN1
reactant | 2-chloro-3-methyl aniline | ClC1=C(N)C=CC=C1C | C7H8ClN
product | 2-(2-Chloro-3-methylanilinomethyl)-2-imidazoline | ClC1=C(NCC=2NCCN2)C=CC=C1C | C11H14ClN3
